US04902710
To a five liter, 3-necked, round bottom flask equipped with two condensers were added 558.0 g (4.6 mol) methylbenzylamine and 500 ml of ethanol. The solution was stirred while an ethanolic solution of hydrochloric acid (170.0 g of acid dissolved in 2500 ml of ethanol) was added over a one hour period. After hydrochloric acid addition was complete, acetophenone (552.5 g; 4.6 mol) and paraformaldehyde (207.0 g; 6.9 mol) were added. The solution was heated until the liquid began to reflux and then stirred at that temperature overnight. The next morning an additional 137.0 g (4.6 mol) of paraformaldehyde were added and the reaction solution was stirred for an additional five hours at the reflux temperature. The solution was then cooled to room temperature (24° C.) and the solids which precipitated were collected by filtration, washed with ethanol and dried in a vacuum oven at 40° C. to provide 1090.0 g (82.0% yield) of 3-[methyl(phenylmethyl)amino]-1-phenyl-1-propanone hydrochloride.

reactant | methylbenzylamine | 4.6 mol, 558.0 g | CNCC1=CC=CC=C1 | C8H11N
reactant | hydrochloric acid | 2500 ml, 170.0 g | Cl | ClH
reactant | acetophenone | 4.6 mol, 552.5 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | paraformaldehyde | 6.9 mol, 207.0 g | C=O | CH2O
reactant | paraformaldehyde | 4.6 mol, 137.0 g | C=O | CH2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-[methyl(phenylmethyl)amino]-1-phenyl-1-propanone hydrochloride | 1090.0 g, 82.0% yield | Cl.CN(CCC(=O)C1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C17H19NO.ClH/c1-18(14-15-8-4-2-5-9-15)13-12-17(19)16-10-6-3-7-11-16;/h2-11H,12-14H2,1H3;1H
